US06410729B1
Procedure for the Preparation of 5-(4-Fluorophenyl)-2,4-bis-(4-pyridyl)-pyrimidine
A stirred mixture of 4-chloro-5-(4-fluorophenyl)-2,6-bis-(4-pyridyl)-pyrimidine (99 mg,, 0.27 mmol) and 10% palladium-on-carbon (70 mg) in ethanol (10 ml) was hydrogenated under an atmosphere of hydrogen for 28 h. Filtration and evaporation of the solvent was followed by flash chromatography (ethyl acetate) on a column of silica gel to provide the title compound. MS (m/z): 329.2 (M+H)+; C20H13FN4requir. 328.4. 1H-NMR (CDCl3) d 8.91 (s, 1H, H-6, Pyrim.), 8.83, 8.65, 8.40, 7.45 (4m, each 2H, Pyrid.), 7.30-7.06 (m, 4H, PhF).

reactant | 4-chloro-5-(4-fluorophenyl)-2,6-bis-(4-pyridyl)-pyrimidine | 0.27 mmol, 99 mg | ClC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=NC=C1 | C20H12ClFN4
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 70 mg | [Pd] | Pd
product | 5-(4-Fluorophenyl)-2,4-bis-(4-pyridyl)-pyrimidine | FC1=CC=C(C=C1)C=1C(=NC(=NC1)C1=CC=NC=C1)C1=CC=NC=C1 | C20H13FN4
